US07825160B2
(5-Benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid (0.09 g, 0.23 mmol) in THF (1.2 ml) was added dropwise to a solution of LHMDS in hexanes (0.49 ml, 0.49 mmol, 1.0M) at −15° C. After 30 min iodopropane (0.08 ml, 0.82 mmol) in THF (0.3 ml) was added and the mixture was stirred for a further 30 min at −15° C. The mixture was then quenched by pouring onto a mixture of ice and HCl solution (2M aq). This was then extracted with EtOAc (×2), washed with NaHSO3 solution (10% aq) and the organics were dried (MgSO4) and then concentrated in vacuo to afford a yellow oil. The oil was purified by flash column chromatography (EtOAc:petroleum ether) to afford 2-(5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid (0.016 g, 0.04 mmol) in 18% yield. 1H NMR (CDCl3) δ 7.69-7-63 (m, 4H), 7.47-7.42 (m, 2H), 7.40 (t, 2H), 7.35-7.31 (m, 1H), 7.13-7.09 (m, 2H), 7.01-6.99 (m, 1H), 5.11 (s, 2H), 3.63-3.59 (m, 1H), 2.11-2.03 (m, 1H), 1.84-1.75 (m, 1H), 1.36-1.26 (m, 2H) 0.92 (t, 3H); LCMS method (A), (M-H−) 385, RT=4.9 min.

reactant | (5-Benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | 0.23 mmol, 0.09 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)O | C22H17F3O3
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | iodopropane | 0.82 mmol, 0.08 ml | ICCC | C3H7I
solvent | THF | 1.2 ml | C1CCOC1 | C4H8O
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | 2-(5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid | 0.04 mmol, 0.016 g, 18% yield | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CCC | C25H23F3O3
